US08563723B2
To a solution of 4.05 g 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide in 30 mL MeOH was added 7.86 mL of a 70% aqueous solution of ethylamine. The mixture was stirred for 1 h. at room temperature and evaporated to dryness. The residue was dissolved in a minimal amount of DCM and triturated with MTBE. The precipitate was filtered off and dried in vacuo, and subsequently recrystallized from n-butyl acetate to give 2.40 g (67%) of 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide as an off-white microcrystalline material after drying in vacuo at 80° C.; m.p. 141-142° C. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.22 Hz, 3H), 1.47-1.89 (m, 8H), 3.35-3.57 (m, 2H), 3.79 (s, 2H), 4.02 (br.s., 2H), 6.65 (d, J=8.73 Hz, 2H), 6.78 (s, 1H), 6.91 (br. s., 1H), 7.70 (d, J=8.73 Hz, 2H).

reactant | 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide | 4.05 g | NC1=CC=C(C=C1)S(=O)(=O)N=C(SC)N1CC2(C=N1)CCCC2 | C15H20N4O2S2
reactant | ethylamine | C(C)N | C2H7N
solvent | MeOH | 30 mL | CO | CH4O
product | 4-amino-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide | 2.40 g, 67% | NC1=CC=C(C=C1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCCC2 | C16H23N5O2S
